US05817877
The general procedure B using 51.7 mg (0.215 mmol) of o-tolyltriflate and 29.4 μl (0.323 mmol) of aniline gave 95% yield of N-(2-methylphenyl)aniline after sublimation (130° C., 0.1 torr).

reactant | o-tolyltriflate | 0.215 mmol, 51.7 mg | C1(=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)C | C8H7F3O3S
reactant | aniline | 0.323 mmol, 29.4 μl | NC1=CC=CC=C1 | C6H7N
product | N-(2-methylphenyl)aniline | 95% yield | CC1=C(C=CC=C1)NC1=CC=CC=C1 | C13H13N
